US08431607B2
A mixture of (R)-1-[5-(4-chlorophenoxy)pyrazin-2-yl]-5-(3-methoxyphenyl)pyrrolidin-2-one (286 mg, 0.72 mmol), DCM (10 mL) and BBr3 (1M in DCM, 4 mL) is stirred at room temperature for 1 h. The reaction mixture is then diluted with DCM (120 mL), washed with saturated NaHCO3 (20 mL) and brine (20 mL) and dried over Na2SO4. After concentrating, the residue is purified on silica gel (0-33% ethyl acetate in hexane) to give (R)-1-[5-(4-chlorophenoxy)pyrazin-2-yl]-5-(3-hydroxyphenyl)pyrrolidin-2-one (276 mg, 100%) as a white solid. HPLC-MS calculated for C20H16ClN3O3 (M+H+) 382.09, found 382.10.

reactant | (R)-1-[5-(4-chlorophenoxy)pyrazin-2-yl]-5-(3-methoxyphenyl)pyrrolidin-2-one | 0.72 mmol, 286 mg | ClC1=CC=C(OC=2N=CC(=NC2)N2C(CC[C@@H]2C2=CC(=CC=C2)OC)=O)C=C1 | C21H18ClN3O3
reactant | BBr3 | 1M, 4 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-[5-(4-chlorophenoxy)pyrazin-2-yl]-5-(3-hydroxyphenyl)pyrrolidin-2-one | 276 mg, 100% | ClC1=CC=C(OC=2N=CC(=NC2)N2C(CC[C@@H]2C2=CC(=CC=C2)O)=O)C=C1 | C20H16ClN3O3
